US07449486B2
Step E: Preparation of 1-(2-(3-aminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-oxadiazol-3(2H)-yl)-2-methylpropan-1-one:
To a solution of {3-[5-(2,5-difluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]oxadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester (60 mg, 0.123 mmol) in DCM (2 mL) at 0° C. was added TFA (1 mL). After stirring for 10 minutes, the reaction was concentrated and the residue was purified by preparative thin layer chromatography (10:1:0.2 EtOAc/MeOH/30% NH4OH) to provide the desired product (25 mg, 53%). MS ESI (+) m/z 388 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.59 (m, 2H), 7.50 (m, 1H), 7.39 (m, 3H), 7.18 (m, 2H), 3.17 (m, 1H, J=7 Hz), 3.02 (m, 1H), 2.8 (br, 2 H), 2.56 (m, 1H), 1.8 (br, 2H), 1.6 (m, 2H), 1.2 (d, 3H, J=7 Hz), 1.13 (d, 3H, J=7 Hz).

reactant | {3-[5-(2,5-difluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]oxadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 0.123 mmol, 60 mg | C(C)(C)(C)OC(NCCCC1(OC(=NN1C(C(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1)=O | C26H31F2N3O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(3-aminopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-oxadiazol-3(2H)-yl)-2-methylpropan-1-one | 25 mg, 53% | NCCCC1(OC(=NN1C(C(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C21H23F2N3O2
